US05432248
Preparation of 4-carboxy-N-(p-carboxyphenyl)phthalimide monomer
38.42 g of trimellitic anhydride (0.2 moles), 27.4 g of p-amino-benzoic acid (0.2 moles) and 300 cc of N,N'-dimethylformamide are fed into a glass flask of 500 cc volume fitted with a mechanical stirrer, a thermometer and a vertical condenser. The reaction mixture is heated to 140° C. and left under stirring for three hours. On termination of this reaction time, the mixture is cooled to ambient temperature and poured into 2 liters of water under stirring. The precipitate is filtered off and washed repeatedly with methanol. After drying the product at 100° C. in a vacuum oven, 46.5 g of the product of the title are obtained. Yield 75%. The product structure is confirmed by NMR spectroscopy on a sample dissolved in deuterated dimethylsulphoxide.

reactant | p-amino-benzoic acid | 0.2 moles, 27.4 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | N,N'-dimethylformamide | 300 cc | CN(C)C=O | C3H7NO
reactant | water | 2 liters | O | H2O
product | 4-carboxy-N-(p-carboxyphenyl)phthalimide | Yield 75% | C(=O)(O)C=1C=C2C(C(=O)N(C2=O)C2=CC=C(C=C2)C(=O)O)=CC1 | C16H9NO6
